US07511145B2
Step 1: (4-Chlorophenyl)isopropylamine (Compound 546a)
A mixture of 1 g (7.84 mmol) of 4-chloroaniline, 0.91 g (15.68 mmol) of acetone, 0.99 g (15.68 mmol) of NaCNBH3, 4 g of MgSO4 in 99 mL anhydrous EtOH and 1 mL AcOH was stirred at room temperature overnight, filtered and the solvent was removed. The residue was dissolved in 50 mL EtOAc, washed with 50 mL H2O, dried (Na2SO4) and evaporated. The residue was purified on silica gel using hexane/EtOAc as eluent to yield 0.86 g colorless oil. MS: 170.08 (M+H+).

reactant | 4-chloroaniline | 7.84 mmol, 1 g | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | acetone | 15.68 mmol, 0.91 g | CC(=O)C | C3H6O
reactant | NaCNBH3 | 15.68 mmol, 0.99 g | [BH3-]C#N.[Na+]
reactant | MgSO4 | 4 g | [O-]S(=O)(=O)[O-].[Mg+2]
solvent | EtOH | 99 mL | CCO | C2H6O
solvent | AcOH | 1 mL | CC(=O)O | C2H4O2
product | (4-Chlorophenyl)isopropylamine | 0.86 g | ClC1=CC=C(C=C1)NC(C)C | C9H12ClN
